US07713979B2
3-(2-Chloro-6-fluoro-benzyl)-1-cyclohexyl-piperidin-2-one
Dissolve 1-cyclohexyl-piperidin-2-one (0.2 g, 1.10 mmol) in dry THF (11 mL) cool to −78° C. and add lithium bis(trimethylsilyl)amide (1.66 mL of 1.0 M solution in THF, 1.66 mmol). After 15 min add 1-bromomethyl-2-chloro-6-fluorobenzene (0.49 g, 2.21 mmol), and allow the mixture to warm to room temperature over 15 h. Wash the mixture with brine, dry the organic layer over sodium sulfate and evaporate. Purify the residue by chromatography on silica gel (eluting 0% to 100% ethyl acetate in hexane) to give the desired product (0.21 g, 59%). MS (ES+) m/z=324 (M+H)+.

reactant | 1-cyclohexyl-piperidin-2-one | 1.10 mmol, 0.2 g | C1(CCCCC1)N1C(CCCC1)=O | C11H19NO
reactant | lithium bis(trimethylsilyl)amide | 1.66 mmol, 1.0 M, 1.66 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-bromomethyl-2-chloro-6-fluorobenzene | 2.21 mmol, 0.49 g | BrCC1=C(C=CC=C1F)Cl | C7H5BrClF
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 3-(2-Chloro-6-fluoro-benzyl)-1-cyclohexyl-piperidin-2-one | 0.21 g, 59% | ClC1=C(CC2C(N(CCC2)C2CCCCC2)=O)C(=CC=C1)F | C18H23ClFNO
